US08039674B2
1,2,3,4-tetrahydro-6-isoquinolinol hydrochloride
To a solution of 3-hydroxyphenethylamine hydrochloride (3.0 g) in methanol (6 mL), formaldehyde (37% aqueous solution, 2.7 mL) and a catalytic amount of concentrated hydrochloric acid were added, followed by stirring at 45° C. for 18 hours. The reaction mixture was concentrated and the obtained solid was washed with a mixed solvent of diisopropyl ether-methanol (1:2) to thereby give the title compound (2.8 g) having the following physical properties.

reactant | 3-hydroxyphenethylamine hydrochloride | 3.0 g | Cl.OC=1C=C(CCN)C=CC1
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 6 mL | CO | CH4O
solvent | formaldehyde | 2.7 mL | C=O | CH2O
product | 1,2,3,4-tetrahydro-6-isoquinolinol hydrochloride | 2.8 g | Cl.C1NCCC2=CC(=CC=C12)O | InChI=1S/C9H11NO.ClH/c11-9-2-1-8-6-10-4-3-7(8)5-9;/h1-2,5,10-11H,3-4,6H2;1H
